US07968570B2
A mixture of 2,3-dihydro-isoindol-1-one (0.066 g, 0.5 mmol), 3-bromo-propyl-benzene (0.119 g, 0.6 mmol), Cs2CO3 (0.408 g, 1.25 mmol), and 18-crown-6 (0.013 g, 0.05 mmol) in acetone (3 mL) was stirred at 70° C. for 16 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-(3-phenyl-propyl)-2,3-dihydro-isoindol-1-one (0.100 g, 80%). 1H NMR (300 MHz, CDCl3): δ (ppm) 1.99 (m, 2H), 2.66 (t, 2H), 3.68 (t, 2H), 4.38 (s, 2H), 7.18-7.56 (m, 8H), 7.92 (d, 1H).

reactant | 2,3-dihydro-isoindol-1-one | 0.5 mmol, 0.066 g | C1(NCC2=CC=CC=C12)=O | C8H7NO
reactant | 3-bromo-propyl-benzene | 0.6 mmol, 0.119 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | Cs2CO3 | 1.25 mmol, 0.408 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 18-crown-6 | 0.05 mmol, 0.013 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetone | 3 mL | CC(=O)C | C3H6O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-phenyl-propyl)-2,3-dihydro-isoindol-1-one | 0.100 g, 80% | C1(=CC=CC=C1)CCCN1C(C2=CC=CC=C2C1)=O | C17H17NO
